US07947851B2
Step b) Formation of {4-[({4-[(4-butylphenyl)ethynyl]benzyl}{[(4-cyanophenyl)amino]-carbonyl}amino)methyl]phenoxy}acetic acid
To a solution of methyl [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(4-cyanoanilino)-carbonyl]amino}methyl)phenoxy]acetate (65 mg) in MeOH/THF (2 ml, (1/1)) was added an aqueous solution of NaOH (2 mL, 1N). The reaction mixture was stirred at rt for 3 hrs. Then an aqueous solution of HCl (7 mL, 1N) was added and extracted with. Et2O (2×7 mL). The combined organic layers were dried over Na2SO4 and the solvents were removed under reduced pressure to give 48 mg of the title compound as a yellow powder. HPLC, Rt: 5.2 min (purity: 75.0%). LC/MS, M+(ESI): 572.4, M−(ESI): 570.4. 1H NMR (DMSO-d6) δ: 7.70 (m, 5H), 7.51 (d, J=7.9 Hz, 2H), 7.44 (d, J=7.9 Hz, 2H), 7.28-7.16 (m, 6h), 6.89 (d, J=8.7 Hz, 2H), 4.64 (s, 2H), 4.56 (s, 2H), 4.51 (s, 2H), 2.60 (t, J=7.7 Hz, 2H), 1.55 (m, 2H), 1.28 (m, 2H), 0.89 (t, J=7.2 Hz, 3H).

reactant | methyl [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(4-cyanoanilino)-carbonyl]amino}methyl)phenoxy]acetate | 65 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)NC2=CC=C(C=C2)C#N)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C37H35N3O4
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | HCl | 1N, 7 mL | Cl | ClH
solvent | MeOH THF | 2 ml | CO.C1CCOC1
product | {4-[({4-[(4-butylphenyl)ethynyl]benzyl}{[(4-cyanophenyl)amino]-carbonyl}amino)methyl]phenoxy}acetic acid | 48 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)NC2=CC=C(C=C2)C#N)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C36H33N3O4
